US07053117B2
2-Amino-7-bromo-4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-4H-chromene
7-Bromo-4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-2-imino-2H-chromene: To a suspension of t-butyl-nitrite (34 mg, 0.33 mmol), CuBr2 (68 mg, 0.30 mmol) in anhydrous acetonitrile (1.5 mL) at 0° C. was added 7-amino-3-cyano-2-imino-4-(3-bromo-4,5-dimethoxy-phenyl)-2H-chromene (100 mg, 0.25 mmol). The mixture was stirred at 0° C. for 4 h, then was diluted with EtOAc (50 mL), washed with saturated NaHCO3 (25 mL), brine (10 mL), dried over MgSO4, and evaporated to yield a yellow solid. The crude was purified by column chromatography (silica gel, EtOAc:hexanes, 1:2 to 1:1) to yield 50 mg (43%) of the title compound as a yellow solid. 1H NMR (CDCl3): 7.82 (brs, 1H), 7.38 (m, 1H), 7.30 (dd, J=2.1, 8.7 Hz, 1H), 7.18 (d, J=2.1 Hz, 1H), 7.09 (d, J=9.0 Hz, 1H), 6.93 (m, 1H), 3.96 (s, 3H), 3.92 (s, 3H).

reactant | 7-Bromo-4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-2-imino-2H-chromene | BrC1=CC=C2C(=C(C(OC2=C1)=N)C#N)C1=CC(=C(C(=C1)OC)OC)Br | C18H12Br2N2O3
reactant | t-butyl-nitrite | 0.33 mmol, 34 mg | C(C)(C)(C)ON=O | C4H9NO2
reactant | 7-amino-3-cyano-2-imino-4-(3-bromo-4,5-dimethoxy-phenyl)-2H-chromene | 0.25 mmol, 100 mg | NC1=CC=C2C(=C(C(OC2=C1)=N)C#N)C1=CC(=C(C(=C1)OC)OC)Br | C18H14BrN3O3
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-Amino-7-bromo-4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-4H-chromene | 50 mg, 43% | NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)Br | C18H14Br2N2O3
